US07939666B2
Step 4c: [[4-(tert-Butoxycarbonylamino-methyl)-benzyl]-(9H-fluoren-9-ylmethoxy-carbonyl)-amino]-acetic acid cyclopentyl ester
To a solution of [4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-acetic acid cyclopentyl ester (0.2 g, 0.55 mmol) and 1 M Na2CO3 (1.1 mL, 1.1 mmol) in DCM (2 mL), was added slowly with stirring and ice bath cooling, a solution of 9-Fluorenylmethyl chloroformate (0.14 g, 0.55 mmol) in dioxane (1.4 mL). The mixture was stirred in the ice bath for 4 h and at room temperature overnight. The mixture was poured into water (90 mL) and extracted with diethyl ether. The organic extracts were combined, dried (MgSO4) and evaporated to dryness to afford the desired product (0.32 g, 100%). m/z 607 [M++Na]+

reactant | [4-(tert-Butoxycarbonylamino-methyl)-benzylamino]-acetic acid cyclopentyl ester | 0.55 mmol, 0.2 g | C1(CCCC1)OC(CNCC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C20H30N2O4
reactant | Na2CO3 | 1.1 mmol, 1 M, 1.1 mL | C(=O)([O-])[O-].[Na+].[Na+]
reactant | 9-Fluorenylmethyl chloroformate | 0.55 mmol, 0.14 g | ClC(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12 | C15H11ClO2
reactant | water | 90 mL | O | H2O
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
solvent | dioxane | 1.4 mL | O1CCOCC1 | C4H8O2
product | [[4-(tert-Butoxycarbonylamino-methyl)-benzyl]-(9H-fluoren-9-ylmethoxy-carbonyl)-amino]-acetic acid cyclopentyl ester | 0.32 g, 100% | C1(CCCC1)OC(CN(C(=O)OCC1C2=CC=CC=C2C=2C=CC=CC12)CC1=CC=C(C=C1)CNC(=O)OC(C)(C)C)=O | C35H40N2O6
